* 6T SRAM cell -- DirectNet LEVEL=73
* Benchmark 3c (docs/plans/2026-05-15-directnet-complex-circuits.md)
*
* Standard 6T bitcell: two cross-coupled inverters (Mpl/Mnl, Mpr/Mnr) and
* two NMOS access transistors (Mal/Mar) to the bit lines. Read condition:
* WL asserted, both bit lines precharged to VDD.
*
* The read static-noise-margin (SNM) butterfly is traced by the verify
* harness, which breaks the cross-coupled feedback and sweeps one storage
* node while reading the other (and vice-versa) -- see verify_complex_sram_snm.py.
* The full cross-coupled netlist below is solved with force_ic=True (hard .ic
* mode) to land each storage state, exercising the same path SRAM latches use.
*
* L_n=16n / L_p=20n / NFIN=2 match the tsmc*_dn_medium checkpoints.

Vdd vdd 0 0.80
Vwl wl 0 0.80
Vbl bl 0 0.80
Vblb blb 0 0.80
.ic V(q)=0.80 V(qb)=0.0

* --- hierarchical (V6.12.0): the cross-coupled pair is two instances of
* --- one sraminv cell; q/qb stay top-level via the ports ---
Xl q qb vdd sraminv NF=2
Xr qb q vdd sraminv NF=2
* --- access transistors ---
Mal bl  wl q  0 nmos_nn L=16n NFIN=2
Mar blb wl qb 0 nmos_nn L=16n NFIN=2

.subckt sraminv i o vdd NF=1
Mpl o i vdd vdd pmos_nn L=20n NFIN=NF
Mnl o i 0   0   nmos_nn L=16n NFIN=NF
.ends

.model nmos_nn NMOS (LEVEL=73 TECH=tsmc12 VT=svt)
.model pmos_nn PMOS (LEVEL=73 TECH=tsmc12 VT=svt)

.op

.end
